US04542216
To a solution of 1.0 g of 4,6-bis(difluoromethoxy)-2-methylsulfonylpyrimidine in 20 ml of methylene chloride are added, with vigorous stirring, 5 ml of a 30% aqueous ammonia solution, in the course of which the reaction mixture warms up and is stirred for a further 2 hours. The solution is subsequently concentrated by evaporation and crystallised to thus obtain, in quantitative yield, (0.8 g) 4,6-bis(difluoromethoxy)-2-aminopyrimidine, m.p. 67°-69° C.

reactant | 4,6-bis(difluoromethoxy)-2-methylsulfonylpyrimidine | 1.0 g | FC(OC1=NC(=NC(=C1)OC(F)F)S(=O)(=O)C)F | C7H6F4N2O4S
reactant | ammonia | N | H3N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4,6-bis(difluoromethoxy)-2-aminopyrimidine | 0.8 g, quantitative yield | FC(OC1=NC(=NC(=C1)OC(F)F)N)F | C6H5F4N3O2
